US08426420B2
ii) (S)-4-Amino-5-[4-(3-methoxy-phenyl)-piperazin-1-yl]-5-oxo-pentanoic acid tert-butyl ester
To a solution of 4.00 g (S)-4-benzyloxycarbonylamino-5-[4-(3-methoxy-phenyl)-piperazin-1-yl]-5-oxo-pentanoic acid tert-butyl ester in 60 ml EtOH were added 0.7 g Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (3 bar) for 12 h. The reaction mixture was filtrated over Celite and washed with EtOH. The title compound was used without further purification after evaporation of the solvent. Yield: 2.90 g.

reactant | (S)-4-benzyloxycarbonylamino-5-[4-(3-methoxy-phenyl)-piperazin-1-yl]-5-oxo-pentanoic acid tert-butyl ester | 4.00 g | C(C)(C)(C)OC(CC[C@@H](C(=O)N1CCN(CC1)C1=CC(=CC=C1)OC)NC(=O)OCC1=CC=CC=C1)=O | C28H37N3O6
solvent | EtOH | 60 ml | CCO | C2H6O
catalyst | Pd/C | 0.7 g | [Pd] | Pd
product | (S)-4-Amino-5-[4-(3-methoxy-phenyl)-piperazin-1-yl]-5-oxo-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC[C@@H](C(=O)N1CCN(CC1)C1=CC(=CC=C1)OC)N)=O | C20H31N3O4
